US08541588B2
3-Cyano-N-(2,4-dimethoxybenzyl)-4-[2-iodo-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
Prepared according to Method O (below) at room temperature using 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 68) and 2-iodo-4-(trifluoromethyl)phenol (Preparation 224). The title compound was isolated as a white solid.

reactant | 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C18H15FN4O4S2
reactant | 2-iodo-4-(trifluoromethyl)phenol | IC1=C(C=CC(=C1)C(F)(F)F)O | C7H4F3IO
product | 3-Cyano-N-(2,4-dimethoxybenzyl)-4-[2-iodo-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)C(F)(F)F)I)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C25H18F3IN4O5S2
